US08124606B2
(S)-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid (87 mg, 0.213 mmol) and cyclopropanamine (18.24 mg, 0.319 mmol) were suspended in DMF (1 ml) and treated with DIPEA (0.186 ml, 1.065 mmol) and 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (162 mg, 0.426 mmol). The reaction mixture was stirred at room temperature for 3 h and purified using HPLC (10-95% acetonitrile in water, NH4HCO3 buffered) to afford (S)-N-cyclopropyl-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide (70.3 mg, 0.157 mmol, 73.7% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 0.49-0.56 (m, 2H) 0.62-0.70 (m, 2H) 1.82-2.02 (m, 3H) 2.11-2.22 (m, 1H) 2.40 (t, J=4.93 Hz, 4H) 2.78 (tq, J=7.34, 3.86 Hz, 1H) 3.34 (br. s., 2H) 3.36-3.44 (m, 1H) 3.49-3.64 (m, 5H) 3.94-4.03 (m, 1H) 6.81 (d, J=8.59 Hz, 1H) 6.98 (d, J=1.77 Hz, 1H) 7.61 (d, J=1.77 Hz, 1H) 7.90 (dd, J=9.09, 2.53 Hz, 1H) 8.20 (d, J=4.04 Hz, 1H) 8.54 (d, J=1.77 Hz, 1H) 10.44 (s, 1H); [M+H] calc'd for C24H29N7O2, 448; found, 448.

reactant | (S)-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid | 0.213 mmol, 87 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C(=O)O)C=C3)CCC2 | C21H24N6O3
reactant | cyclopropanamine | 0.319 mmol, 18.24 mg | C1(CC1)N | C3H7N
reactant | DIPEA | 1.065 mmol, 0.186 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 0.426 mmol, 162 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (S)-N-cyclopropyl-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide | 0.157 mmol, 70.3 mg, 73.7% yield | C1(CC1)NC(C1=CN=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)=O | C24H29N7O2
